### PR TITLE
[Merged by Bors] - feat(CategoryTheory/Monoidal): redefine `tensorLeft` by using whiskering

### PR DESCRIPTION
**Pull request by yuma-mizuno**
Extracted from #6307

---

- [x] depends on: #10326

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Monoidal/Bimod.lean [hunk 1]
```diff
@@ -860,25 +888,27 @@ theorem comp_whisker_left_bimod {W X Y Z : Mon_ C} (M : Bimod W X) (N : Bimod X
...
+theorem comp_whiskerRight_bimod {X Y Z : Mon_ C} {M N P : Bimod X Y} (f : M ⟶ N) (g : N ⟶ P)
+    (Q : Bimod Y Z) : whiskerRight (f ≫ g) Q = whiskerRight f Q ≫ whiskerRight g Q := by
+  ext
+  apply Limits.coequalizer.hom_ext
+  simp
 set_option linter.uppercaseLean3 false in
-#align Bimod.comp_whisker_right_Bimod Bimod.comp_whisker_right_bimod
+#align Bimod.comp_whisker_right_Bimod Bimod.comp_whiskerRight_bimod
 
 theorem whisker_right_id_bimod {X Y : Mon_ C} {M N : Bimod X Y} (f : M ⟶ N) :
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Monoidal/Bimod.lean:910]:
```suggestion
theorem whiskerRight_id_bimod {X Y : Mon_ C} {M N : Bimod X Y} (f : M ⟶ N) :
```
In this file, there are a few other `whisker_left/right` names which should be changed similarly.

**Comment by joelriou** [comment]
Apart from a few name changes, this looks good to me. Thanks!

bors d+
